US06767687B1
In a 500 μl 4-opening flask equipped with a stirring bar, 49.01 g of sodium cyanide was mixed with 70.07 g of water and 50.96 g of ethanol. Then, the temperature of the flask was elevated to 60° C. and the sodium cyanide was completely dissolved. To said solution, 87.50 g of 4-chloromethylstyrene was slowly added and it was reacted for 3 hours while stirring and maintaining the reaction temperature within 60-70° C. When the reaction terminated, said solution was cooled to 40° C., and 100 g of diethylether was added and the diethylether layer was separated. The separated organic layer was extracted with 300 g of water three times, and the water layer was extracted with 50 g of diethylether and was combined with said organic layer. The separated obtained organic layer was dried with magnesium sulfate for one day, and then the organic solvent was removed using an evaporator to obtain the product 4-cyanomethylstyrene. The yield of the product was 80%, and the product was a deep purple color.

reactant | sodium cyanide | 49.01 g | [C-]#N.[Na+]
reactant | water | 70.07 g | O | H2O
reactant | 4-chloromethylstyrene | 87.50 g | ClCC1=CC=C(C=C)C=C1 | C9H9Cl
solvent | ethanol | 50.96 g | C(C)O | C2H6O
product | 4-cyanomethylstyrene | C(#N)CC1=CC=C(C=C)C=C1 | C10H9N
